US08232312B2
5-(3,5-dichloro-phenylsulphonylamino)-indole-1-carboxylic acid-benzylamide
130 mg 3,5-dichloro-N-(1H-indol-5-yl)-phenylsulphonamide are dissolved in 5 ml dichloromethane and 14 mg dimethylaminopyridine and 56 μl benzylisocyanate are added. The mixture is stirred overnight at ambient temperature, divided between 1 N HCl and ethyl acetate, the aqueous phase is extracted with ethyl acetate and the combined organic phases are dried with magnesium sulphate. The solvents are eliminated in vacuo and the residue is chromatographed on silica gel (cyclohexane/ethyl acetate 10:1 to 1:3).

reactant | 3,5-dichloro-N-(1H-indol-5-yl)-phenylsulphonamide | 130 mg | ClC=1C=C(C=C(C1)Cl)S(=O)(=O)NC=1C=C2C=CNC2=CC1 | C14H10Cl2N2O2S
reactant | dimethylaminopyridine | 14 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | benzylisocyanate | 56 μl | C(C1=CC=CC=C1)N=C=O | C8H7NO
reactant | HCl | 1 N | Cl | ClH
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-(3,5-dichloro-phenylsulphonylamino)-indole-1-carboxylic acid-benzylamide | C(C1=CC=CC=C1)NC(=O)N1C=CC2=CC(=CC=C12)NS(=O)(=O)C1=CC(=CC(=C1)Cl)Cl | C22H17Cl2N3O3S
